US06683096B2
B. Preparation of 2-{2-[4-(1-cyclopropylmethyl-6-fluoro-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in Example 138 (part B) starting with 2 g (5.1 mmol) of 2-{2-[4-(6-fluoro-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester, 0.51 g (12.8 mmol) of NaH 60% in mineral oil and 0.99 mL (10.2 mmol) of cyclopropylmethyl bromide. The crude mixture was hydrolised following the procedure described in Example 138 (part C) and purified by flash chromatography over silica gel affording 0.32 g (18% of yield) of the desired product.

reactant | 2-{2-[4-(6-fluoro-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester | 5.1 mmol, 2 g | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CNC2=CC(=CC=C12)F)=O | C23H25FN2O3
reactant | NaH | 12.8 mmol, 0.51 g | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 10.2 mmol, 0.99 mL | C1(CC1)CBr | C4H7Br
product | 2-{2-[4-(1-cyclopropylmethyl-6-fluoro-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | C1(CC1)CN1C=C(C2=CC=C(C=C12)F)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C26H29FN2O3
